US07943669B2
[4-(3-hydroxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic Acid Ethyl Ester
[4-(3-Bromo-5-hydroxy-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl acetate (3 g; 7.55 mmol), 3-phenyl-1-propyn (2.63 g; 22.65 mmol), bis(triphenylphosphine)palladium (II) chloride (0.42 g; 0.60 mmol) and copper iodide (0.086 g; 0.45 mmol) were dissolved in a mixture of triethylamine (3 mL) and DMF (6 mL) under an atmosphere of nitrogen. The reaction mixture was reacted in a microwave oven at 100° C. for 11 h. The reaction mixture was evaporated to dryness, and portioned between 5% aqueous citric acid and ethyl acetate. The organic phase was dried and evaporated to dryness. The crude product was purified by preparative HPLC method A. Yield: 1.4 g. HPLC-MS: m/z: 433.3 (M+); Rt: min.

reactant | [4-(3-Bromo-5-hydroxy-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl acetate | 7.55 mmol, 3 g | C(C)OC(C)=O.BrC=1C=C(C=C(C1)O)SC1=CC(=C(OCC(=O)O)C=C1)C
reactant | 3-phenyl-1-propyn | 22.65 mmol, 2.63 g | C1(=CC=CC=C1)CC#C | C9H8
solvent | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.60 mmol, 0.42 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper iodide | 0.45 mmol, 0.086 g | [Cu](I)I
product | [4-(3-hydroxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=CC=C1)O)C)=O | C25H22O4S
